US07635700B2
A stirred mixture of 2-bromomethyl-6-nitro-benzoic acid methyl ester (36.6 g, 134 mmol), di-tert-butyl iminodicarboxylate (29.1 g, 134 mmol), cesium carbonate (89.3 g, 274 mmol), and lithium iodide (0.89 g, 6.7 mmol) in 2-butanone (400 mL) was heated to reflux in a 100° C. oil bath for 12 hours while stirred with a mechanical stirrer. The mixture was allowed to cool to room temperature. To the mixture, was add brine (300 mL), water (300 mL), ethyl acetate (750 mL) and stirred for 10 minutes, then the suspension was filtered through a pad of Celite. The two layers were separated, and the organic layer was evaporated to a less volume and the aqueous layer was extracted with ethyl acetate (2×150 mL). The combined organic layers were washed with brine (500 mL), dried over magnesium sulfate while de-colored at the same time with charcoal at room temp for 30 minutes. The black mixture was filtered through a pad of Celite. The filtrate was evaporated to give 2-(di-tert-butoxycarbonylamino-methyl)-6-nitro-benzoic acid methyl ester as a brown oil (51.53 g, 94% yield). The product was used in the next step without further purification.

reactant | 2-bromomethyl-6-nitro-benzoic acid methyl ester | 134 mmol, 36.6 g | COC(C1=C(C=CC=C1[N+](=O)[O-])CBr)=O | C9H8BrNO4
reactant | di-tert-butyl iminodicarboxylate | 134 mmol, 29.1 g | N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H19NO4
reactant | cesium carbonate | 274 mmol, 89.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 300 mL | O | H2O
solvent | 2-butanone | 400 mL | CC(CC)=O | C4H8O
solvent | brine | 300 mL | [Cl-].[Na+].O
catalyst | lithium iodide | 6.7 mmol, 0.89 g | [I-].[Li+]
solvent | ethyl acetate | 750 mL | C(C)(=O)OCC | C4H8O2
product | 2-(di-tert-butoxycarbonylamino-methyl)-6-nitro-benzoic acid methyl ester | 51.53 g, 94% yield | COC(C1=C(C=CC=C1[N+](=O)[O-])CN(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C19H26N2O8
